US08859534B2
1-(1-Acetylindolin-5-yl)-2-bromo-ethanone
Bromoacetyl bromide (1.0 mL, 11.2 mmol) was slowly added to a suspension of aluminum chloride (3.7 g, 27.9 mmol) in dichloromethane (30 mL) and the reaction mixture was stirred for 20 min at rt. A solution of 1-acetylindoline (1.5 g, 9.3 mmol) in dichloromethane (10 mL) was slowly added and then the reaction mixture was heated at 55° C. for 1.5 h. The mixture was cooled and then quenched with cold water. The precipitate was filtered through a short pad of celite, washed with dichloromethane and water. The aqueous phase was extracted with dichloromethane. The combined organic extract was washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to give the product. Yield: 1.9 g (73%).

reactant | Bromoacetyl bromide | 11.2 mmol, 1.0 mL | BrCC(=O)Br | C2H2Br2O
reactant | aluminum chloride | 27.9 mmol, 3.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-acetylindoline | 9.3 mmol, 1.5 g | C(C)(=O)N1CCC2=CC=CC=C12 | C10H11NO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(1-Acetylindolin-5-yl)-2-bromo-ethanone | C(C)(=O)N1CCC2=CC(=CC=C12)C(CBr)=O | C12H12BrNO2
